data/mechanism_extracts/AsianJOC/10.1002_ajoc.201300017.json
{"doi": "10.1002_ajoc.201300017", "journal": "AsianJOC", "is_review": false, "rxn_class_summary": "Electrochemically initiated catalytic dithiolation (addition of ArSSAr) to alkenes and alkynes via a cationic chain mechanism mediated by an arylbis(arylthio)sulfonium ion ArS(ArSSAr)+.", "mechanism_family": ["cation_initiated", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of ArSSAr at -78 °C generates and accumulates a catalytic 'cation pool' of ArS(ArSSAr)+ (1), which then initiates a non-electrochemical cation chain with the alkene and additional ArSSAr.", "key_intermediates": [{"name": "arylbis(arylthio)sulfonium ion ArS(ArSSAr)+ (1), chain carrier / initiator", "smiles": null, "role": "reactive"}, {"name": "thiiranium ion A from ArS+ transfer to alkene", "smiles": null, "role": "transient"}, {"name": "β-arylthio sulfonium ion B (open-chain sulfonium after ArSSAr attack on A)", "smiles": null, "role": "transient"}, {"name": "1,2-bis(arylthio)alkane product C", "smiles": null, "role": "reactive"}], "electron_flow": "Anode removes one electron from ArSSAr to build up a catalytic pool of ArS(ArSSAr)+ (1); 1 transfers ArS+ to the alkene forming thiiranium A, which is opened by another ArSSAr to give sulfonium B, which fragments to dithiolated product C and regenerates 1, propagating a cation chain without further electron transfer.", "rate_determining_step": null, "probe_reagents": [{"name": "Bu4NB(C6F5)4 vs Bu4NBF4 (counteranion probe)", "smiles": null, "purpose": "other", "observation": "Yields drop sharply with BF4- (≤26%) vs B(C6F5)4- (71-79%); less nucleophilic/less stabilizing B(C6F5)4- keeps cations A and B electrophilic enough for ArSSAr attack, supporting cationic chain."}, {"name": "Catalytic electricity (0.06 F/mol) experiment", "smiles": null, "purpose": "other", "observation": "Substoichiometric charge (ca. 6 mol% of 1 generated) still drives full conversion, consistent with a chain process with 1 as chain carrier."}, {"name": "Et3N quench", "smiles": "CCN(CC)CC", "purpose": "intermediate_trap", "observation": "Added to quench cationic intermediates and terminate the reaction."}], "evidence_types_used": ["stoichiometric_intermediate", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Mechanism builds on prior stoichiometric ArS(ArSSAr)+ 'cation pool' chemistry (thiiranium intermediates trapped by hard/soft nucleophiles). No radical traps, KIE, CV, or DFT reported on these pages; mechanistic support comes from catalytic-charge experiment, counteranion effect, and anti-selective addition consistent with thiiranium opening. Alternative pathways (e.g., radical chain) are not explicitly excluded."}
